US06838574B1
Potassium carbonate (563 mg, 4.07 mmol) was added to a solution of ethyl 5-trimethylsilyl-(E)-2-penten-4-ynoate(800 mg, 4.07 mmol) in ethanol (10 ml), and the mixture was stirred at room temperature for 1 h. The reaction was quenched by the addition of 2N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography to give ethyl (E)-2-penten-4-ynoate (79%).

reactant | Potassium carbonate | 4.07 mmol, 563 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-trimethylsilyl-(E)-2-penten-4-ynoate | 4.07 mmol, 800 mg | C[Si](C#C/C=C/C(=O)OCC)(C)C | C10H16O2Si
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl (E)-2-penten-4-ynoate | 79% | C(\C=C\C#C)(=O)OCC | C7H8O2
